* C:\Users\madha\Desktop\Audio-Amplifier\audio_amplifier.asc
Q1 Vcc Vin N011 0 BC547B
Q2 N007 0 N013 0 BC547B
V1 Vcc 0 5
V2 Vee 0 -5
Re1 N012 N011 50
Re2 N013 N012 50
R1 N012 Vee 2.5k
Rc1 Vcc N007 5k
C1 N008 N007 2.217µ
R2 N009 0 10k
R3 Vcc N009 56k
Rc2 Vcc N005 10k
C2 N006 N005 79.5n
Re3 N010 0 1k
Q3 N005 N009 N010 0 BC547B
XU1 0 N001 Vcc -Vcc N002 UA741
C3 N002 N001 10n
R4 N002 N001 2.5k
R5 N001 N004 8k
C4 N004 N003 100n
V4 Vin 0 SINE(0 10m 1k) AC 1
C5 N009 Vin 2.27µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m
.include UA741.301
.backanno
.end
